US05556864
9(a) 2-{2-[4-(2-Cyanophenyl)butyl]phenoxymethyl}oxirane
Following a procedure similar to that described in Example 1(a), 634 mg of 2-[4-(2-cyanophenyl)butyl]phenol (prepared as described in Preparation 11), 283 mg of potassium t-butoxide and 345 mg of epibromohydrin were reacted in 6 ml of dimethylacetamide. The crude product, extracted as described in Example 1, was purified as described in Example 1, to give 690 mg (yield 89%) of the title compound as an oil.

reactant | 2-[4-(2-cyanophenyl)butyl]phenol | 634 mg | C(#N)C1=C(C=CC=C1)CCCCC1=C(C=CC=C1)O | C17H17NO
reactant | potassium t-butoxide | 283 mg | CC(C)([O-])C.[K+]
reactant | epibromohydrin | 345 mg | C(Br)C1CO1 | C3H5BrO
solvent | dimethylacetamide | 6 ml | CC(=O)N(C)C | C4H9NO
product | 2-{2-[4-(2-Cyanophenyl)butyl]phenoxymethyl}oxirane | 690 mg, yield 89% | C(#N)C1=C(C=CC=C1)CCCCC1=C(OCC2OC2)C=CC=C1 | C20H21NO2
